US03971819
A. 5-methylsulphamyl-3-nitro-4-phenoxy-benzoic acid
To a mixture of 1N sodium hydroxide (60 ml) and aqueous methylamine (3.43 g containing 1.2 g of methylamine) 4-chloro-5-chlorosulphonyl-3-nitro-benzoic acid (9.3 g) was added in portions, while stirring and keeping the mixture at 0°-3°C. Then the reaction mixture was left standing until it reached room temperature, after which the 4-chloro-5-methylsulphamyl-3-nitro-benzoic acid was precipitated by slow acidification with 4N hydrochloric acid. The precipitate was collected by suction and recrystallized from aqueous ethanol. The melting point was 228°-229°C.

reactant | methylamine | 3.43 g | CN | CH5N
reactant | 4-chloro-5-chlorosulphonyl-3-nitro-benzoic acid | 9.3 g | ClC1=C(C=C(C(=O)O)C=C1S(=O)(=O)Cl)[N+](=O)[O-] | C7H3Cl2NO6S
reactant | sodium hydroxide | 1N, 60 ml | [OH-].[Na+]
product | 5-methylsulphamyl-3-nitro-4-phenoxy-benzoic acid | CNS(=O)(=O)C=1C(=C(C=C(C(=O)O)C1)[N+](=O)[O-])OC1=CC=CC=C1 | C14H12N2O7S
